Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Plavix
 
Attending: ___
 
Chief Complaint:
Loss of consciousness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old man with history of HFrEF (LVEF 40%, 
diastolic dysfunction, moderate aortic stenosis), ___, CAD 
___ CABG ___, ___ coronary artery stents x5, atrial 
fibrillation not on anticoagulation due to GI bleeding, CKD, and 
mild dementia who presented to ___ ___ after being found down 
this morning with trauma ___ negative for acute pathology 
(has chronic C1 fracture). He was found to have an elevated 
troponin and was admitted to ___ Service for 
management of ACS.

The patient is a poor informant. He has recently moved to ___ 
from ___ with prior care at ___ and has not yet 
established cardiology care in ___. Per the daughter and the 
___ note, the patient was found down in his home this morning. He 
does not remember the event, but was able to crawl to the door 
and shout for help. He does not recall any complaints of chest 
pain, dizziness, or prior ICD shocks from the night before.

In the ___ initial vitals were: T 96.0 HR 72 BP 135/80 RR 18 SaO2 
96% on RA. On exam, the patient had a ___ systolic murmur at 
the base and clear lungs anteriorly. Labs/studies notable for: 
WBC 10.2 Hgb 12.1 Hct 38.4 Plts 210 INR 1.3 Na 144 K 3.5 BUN 68 
Cr 1.9 glc 133 ALT 14 AP 65 Alb 4.1 AST 34 CK 500 ___ ___ MBI 
3.6 ___ 0.37 Lactate 2. EKG showed ventricular pacing at 
60 bpm with occasional PVCs. Limited bedside cardiac ultrasound 
reportedly showed LVEF ~20%, significant tricuspid and moderate 
mitral regurgitation with a distended IVC and no respiratory 
variation. He received NS, ASA 324 mg po. Head CT head showed 
subgaleal hematoma, no underlying fracture and no acute 
hemorrhage. ___ CT showed chronic C1 fracture (and 
interstitial pulmonary edema), and CT abdomen/pelvis showed no 
intrathoracic/abdominal injury.

After arrival to the cardiology ward, the patient had no 
complaints. He denied chest pain, shortness of breath, fevers, 
chills, urinary symptoms, diarrhea or rash. He stated that he 
was hungry and would like to eat.
 
Past Medical History:
1. CAD RISK FACTORS  
 - Diabetes mellitus: No  
 - Hypertension: No  
 - Dyslipidemia: Yes  
2. CARDIAC HISTORY  
 - CHF (LVEF previously 50%, diastolic dysfunction)  
 - Moderate aortic stenosis
 - ___ placed ___
 - CAD (CABG ___, stents x5)
 - Atrial fibrillation not on AC due to GI bleeding
3. OTHER PAST MEDICAL HISTORY  
 - CKD stage 4 (baseline Cr ___  
 - Alzheimer's Dementia  
 - history of falls  
 - H/O ___ tear, gastritis, diverticulitis  
 - GI bleed ___ from gastritis  
 - ___ Tonsillectomy  
 - anemia  
 - hypothyroidism  
 - lung nodule, CT in ___  
 - GERD  
 - BPH  
 - ___ hernia repair ___ 
 
Social History:
___
Family History:
Parents and 1 sibling deceased from heart disease. Daughter 
deceased from breast cancer.
 
Physical Exam:
On admission
GENERAL: Well developed, well nourished elderly white man in 
NAD. Alert and interactive.
VS: T 97.6 BP 131/77 HR 63 RR 20 SaO2 97% on RA
HEENT: Superficial skin abrasion on the occiput without active 
bleeding. Mildly tender hematoma.
NECK: Supple. JVP not elevated
CARDIAC: RR, III/VI systolic murmur
LUNGS: CTAB
ABDOMEN: Soft, ___. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
NEURO: Alert and interactive. Answering questions appropriately. 
Knows name and that he is in the hospital (at baseline mental 
status). Moving extremities symmetrically and with purpose. 
Sensation intact throughout. No focal deficits

At discharge
GENERAL: Well developed, well nourished man in NAD. Alert and 
interactive.
VS: BP ___ HR 70 RR ___ SaO2 ___ on RA
Weight: 73.8 kg from 73.6kg ___
I/O: 8h 120/650 24h 1540/___
HEENT: Superficial skin abrasion on the occiput without active 
bleeding, mildly tender hematoma.
NECK: Supple. JVP not elevated
CARDIAC: RR, III/VI systolic murmur
LUNGS: Crackles at the bases L>R, No wheezes or rhonchi.
ABDOMEN: Soft, ___. 
EXTREMITIES: Warm, well perfused. 1+pitting edema to ankles 
bilaterally. No clubbing, cyanosis.
NEURO: Alert and interactive. Oriented to person and year, not 
place or reason he is at hospital. Moving extremities 
symmetrically and with purpose. No focal deficits.
 
Pertinent Results:
___ 08:53AM   ___ 
___
___ 08:53AM   ___ 
___ IM ___ 
___
___ 08:53AM   ___ ___
___ 08:53AM   PLT ___

___ 08:53AM URINE  ___ SP ___
___ 08:53AM URINE  ___  ___ 
___ 
___
___ 08:53AM URINE  ___ WBC-<1 ___ 
___
___ 08:53AM URINE  ___
___ 08:53AM URINE  ___

___ 08:53AM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 08:53AM   ___ 
___
___ 08:53AM   ALT(SGPT)-14 AST(SGOT)-34 CK(CPK)-500* ALK 
___ TOT ___
___ 08:53AM   ___
___ 09:07AM   ___

___ 08:53AM   ___ MB ___
___ 01:53PM   ___
___ 07:02PM   ___
___ 06:10AM   ___

___ 06:10AM   ___ LD(LDH)-251* CK(CPK)-313 
___
___ 06:10AM   ___ Free ___
___ 06:10AM   ___

___ 06:15AM   ___ 
___ Plt ___
___ 06:10AM   ___ 
___

ECG ___ 8:45:12 AM 
Baseline artifact. Atrial pacing with subsequent ventricular 
pacing. Isolated premature ventricular contraction. No previous 
tracing available for comparison.
 
ELBOW (AP, LAT & OBLIQUE) RIGHT ___
AP, lateral, obliques views of the right elbow provided. No 
fracture or dislocation. No signs of joint effusion. Skin folds 
projecting over the proximal radius and ulna simulate fracture 
lines. No soft tissue abnormalities detected. 
IMPRESSION: No acute fracture or dislocation.

Head CT ___
Motion limited ___ CT of the head. Subgaleal hematoma 
noted posteriorly. There is no ___ or ___ 
hemorrhage, edema, shift of normally midline structures, or 
evidence of acute major vascular territorial infarction. 
Ventricles and sulci as are prominent consistent with 
___ atrophy. Periventricular, subcortical, and deep 
white matter hypodensities are consistent with chronic small 
vessel ischemic disease. Minimal mucosal thickening of the 
maxillary sinuses. The remaining paranasal sinuses are 
essentially clear. Mastoid air cells and middle ear cavities are 
well aerated. The bony calvarium is intact. ___ C1 
fracture better assessed on same day CT examination of the 
cervical spine.
IMPRESSION:
1. Posterior subgaleal hematoma without underlying fracture. 
2. No acute hemorrhage or large territorial infarction. 
3. ___ atrophy and chronic microvascular ischemic 
disease. 
 
CT ___ ___
Fracture involving the left anterior posterior arch of C1 of 
noted without associated soft tissue swelling/stranding to 
suggest acute injury. Please correlate clinically. No other 
cervical spine fractures noted. Alignment appears anatomic. 
Significant thickening of the transverse ligament posterior to 
the dens is noted. No prevertebral edema. Septal thickening 
noted in the apical lung fields suggestive of interstitial 
pulmonary edema. Severe multilevel degenerative changes with 
loss of disc height, uncovertebral and facet arthropathy, and 
osteophytic changes. Pacer leads are noted in the left upper 
chest. 
IMPRESSION:
1. Fracture involving the left anterior and posterior ring of 
C1, without associated soft tissue abnormalities to suggest 
acuity. Please correlate clinically.
2. Interstitial pulmonary edema in the lung apices.
3. Severe multilevel degenerative changes of the cervical spine.
  
CT chest, abd and pelvis ___
CHEST: 
HEART AND VASCULATURE: Sequela of CABG noted. Pacemaker 
appreciated with leads entering the right heart. Heart is 
moderately enlarged. No pericardial effusion. Main pulmonary 
artery is not enlarged.
AXILLA, HILA, AND MEDIASTINUM: No axillary or mediastinal 
lymphadenopathy is present. No mediastinal mass or hematoma.
PLEURAL SPACES: No pneumothorax. Trace right pleural effusion.
LUNGS/AIRWAYS: Chronic left lung atelectasis. No worrisome 
nodule or mass. Septal thickening noted suggestive of 
interstitial pulmonary edema.
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality.  
ABDOMEN: 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  There is no evidence of focal lesion or laceration 
within the limitation of an unenhanced scan. There is no 
perihepatic free fluid. There is no evidence of intrahepatic or 
extrahepatic biliary dilatation. The gallbladder is within 
normal limits. 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation. There is no peripancreatic stranding. 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without evidence of focal lesion or laceration within the 
limitation of an unenhanced scan. 
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
URINARY: The kidneys are of normal and symmetric size. 
Hyperdense cystic lesion noted in the lower pole left kidney, 
series 2, image 148 measuring 1.3 x 1.5 cm. A second hyperdense 
lesion in the interpolar left kidney measures 8 x 7 mm, series 
2, image 142. While these may represent hemorrhagic or 
proteinaceous cysts, these are not fully characterized. There is 
no hydronephrosis. There is no nephrolithiasis. There is no 
perinephric abnormality. 
GASTROINTESTINAL: The stomach is unremarkable. Small bowel loops 
demonstrate normal caliber and wall thickness throughout. There 
is diverticulosis without diverticulitis. Stool ball noted in 
the rectum.  The appendix is normal. No free air in the abdomen. 
Small free fluid in the left lower quadrant.
PELVIS: The urinary bladder and distal ureters are unremarkable. 
There is no free fluid in the pelvis. 
REPRODUCTIVE ORGANS: The reproductive organs are unremarkable. 
VASCULAR: There is no abdominal aortic aneurysm. Extensive 
atherosclerotic disease is noted. The cisterna chyli is noted 
adjacent to the aorta in the retrocrural space on series 2, 
image 108. 
BONES: There is no worrisome osseous lesions or acute fracture. 
Severe, chronic degenerative of the bilateral shoulders. 
Moderate to severe degenerative changes of the cervical, 
thoracic, and lumbar spine. 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
IMPRESSION:
1. No acute sequelae of trauma on this noncontrast CT exam. 
2. Indeterminate hyperdense cystic lesions in the left kidney, 
which may be further assessed on a renal ultrasound on a 
nonemergent basis if clinically indicated. 
3. Trace right pleural effusion. Interstitial pulmonary edema.
4. Small free fluid in the left lower quadrant, nonspecific. 
5. Severe degenerative change of the bilateral shoulders. 
Moderate to severe degenerative change of the cervical, 
thoracic, and lumbar spine.
RECOMMENDATION(S): If clinically warranted, ultrasound may be 
considered for ___ of hypodense lesion of the lower pole 
left kidney.

Echocardiogram ___
FOCUSED STUDY/LIMITED VIEWS (full study done ___. There is 
symmetric left ventricular hypertrophy. Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. Overall left ventricular systolic function is 
moderately depressed (LVEF= ___ %). There is no left 
ventricular outflow obstruction at rest or with Valsalva. The 
right ventricular cavity is mildly dilated with mild global free 
wall hypokinesis. The aortic valve leaflets are severely 
thickened/deformed. Trivial mitral regurgitation is seen. There 
is moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 
  Compared with the prior study (images reviewed) of ___, 
the estimated pulmonary pressures are higher. There is no 
outflow tract obstruction with Valsalva. Overall systolic 
function is moderately reduced (EF OVERestimated on prior 
study).  

___ CXR:  
  Heart size is mildly enlarged. There is no appreciable 
pulmonary edema. There is no pneumothorax. There is small amount 
of left pleural effusion and most likely present small amount of 
right pleural effusion. 
  There is air that is projecting below the right hemidiaphragm 
which might represent: As demonstrated on the previous chest CT 
but pneumoperitoneum is a possibility, please correlate with 
patient's history of potential recent surgery. No definitive new 
consolidation to suggest the presence of left basal pneumonia 
demonstrated.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with history of HFrEF (LVEF 
previously 40%, diastolic dysfunction), moderate aortic 
stenosis, ___, CAD ___ CABG ___ and stents x5, CKD, and 
mild dementia who presented to ___ ___ after being found down. 
He was diagnosed with rhabdomyolysis (confounding interpretation 
of the ___ with NSTEMI with rising troponin. Interrogation of 
his ICD showed ventricular fibrillation with  defibrillation 
that likely precipitated the presenting event.

# NSTEMI: Patient presenting ___ fall found to have elevated 
troponin 0.37 peaking at 0.59 and ___ of 15 peaking at 18 but 
with total CK 500 initially with MBI only 3.6%. He recalled no 
chest pain but has a significant coronary history ___ CABG and 
stents x5). He also does not recall prior ICD shocks, so his 
recollection of ischemic symptoms may be insensitively 
unreliable. His MI was likely due to demand infarction in 
setting of life threatening ventricular arrhythmia that was 
defibrillated by his ICD with underlying CAD and aortic 
stenosis. His family did not want to pursue invasive procedures, 
and he was a poor candidate for ___ therapy after PCI 
or after a medically treated MI given prior falls and GI 
bleeding. He was given aspirin, continued on carvedilol, and 
rosuvastatin was increased to 40 mg. Home isosorbide was 
discontinued. Prior to discharge, the decision was made to stop 
aspirin given slow downtrend in hemoglobin/hematocrit and guaiac 
positive stool during hospital stay.

# Syncope/Falls: Per patient's daughter, the patient has 
suffered several falls over the past couple months. 
Interrogation of his ICD showed 3 incidents of ventricular 
fibrillation since ___ with appropriate shocks. The most 
recent was at 10 pm ___, suggesting he may have been down 
~9 hours before being found (having been brought home by his 
family after dining out earlier in the evening). Given 
underlying dementia, the patient had no recollection of these 
events nor being defibrillated. As he seems to have fallen in 
the bathroom before crawling to the front door of his apartment, 
there was concern for mechanical and vagal contributions to 
other falls due to functional status and aortic stenosis 
respectively. He was found to be orthostatic. ___ settings 
were changed,  increased lower limit rate to 70, ___ 
pacing rate increased from 45 to 80. He was started on 
amiodarone 400 mg with plan to continue BID x1 week ___, 
then ___ pm starting 200 mg daily per EP recommendations. 
Baseline LFTS and TFTs were not remarkable.

# HFrEF: His TTE ___ showed EF ___, similar to TTE ___ 
EF of 40% on recent TTE. Home diuresis was initially held given 
concern for volume depletion and mild rhabdomyolysis ___ fall, 
but chest CT showed pulmonary edema and ___ markedly 
elevated at ___. He was diuresed with furosemide 80 mg IV on 
the day prior to discharge, after which creatinine bumped. 
Patient did not receive any diuresis on the day of discharge.

# Subgaleal hematoma: This was thought due to fall with no 
underlying fracture. Per Neurosurgery and ACS trauma service, no 
intervention was needed.

# Atrial fibrillation: Prior bleed on warfarin. He was then put 
on a NOAC but stopped for unclear reason (possibly falls). He 
was continued on carvedilol, started on amiodarone for 
suppression of ventricular arrhythmic events. Anticoagulation 
was not started given above concerns. 

# Leukocytosis: On presentation WBC 10.9 with 80%, which 
resolved. Thought to be reactive in the setting of fall and 
NSTEMI. Infectious workup was negative.

CHRONIC:
# Anemia: Unknown baseline. He did not require transfusion.
 
# CKD Stage 4: Patient at baseline Cr of 1.9. Medications were 
renally dosed. 

# Hypothyroidism: Continued on home levothyroxine; free T4 
normal.

# BPH: Continued on home finasteride and Flomax.  

# Alzheimers: Delirium precautions, physical therapy consulted.

# COPD: Home Bravona not on formulary, so he was given Advair.
 
# B12 deficiency: Continued on home B12 1000 mcg qdaily. 

****TRANSITIONAL ISSUES:****
DISCHARGE WEIGHT: 73.8kg
- Monitor volume status and daily weight: start home furosemide 
80 mg BID if weight >74 Kg and if creatinine is not worsening
- Goal weight: 74 Kg
- Continue amiodarone 400 mg twice a day for a total duration of 
1 week (day ___, until ___, then switch to 200 mg daily 
afterwards
- Aspirin was started during admission but Hgb/Hct dropped and 
patient had positive guaiac, so aspirin was stopped prior to 
discharge
- Monitor Hgb/Hct, and transfuse if these drop
- Strongly recommend incentive spirometer
- Recommend goals of care discussion with family 
- Speech and swallow recommendations: diet of regular 
consistency solids and thin liquids, medications whole one at a 
time with thin liquids
- Incidental finding: Hypodense lesion of the lower pole of the 
left kidney. If clinically warranted, ultrasound may be 
considered for ___.

NEW MEDICATIONS:
Amiodarone 400mg twice a day for 1 week, then 200mg daily 
thereafter

CHANGED MEDICATIONS:
Rosuvastatin increased from 10mg to 40 mg daily

STOPPED MEDICATIONS:
Isosorbide 

HELD MEDICATIONS:
Furosemide 80mg po BID

#CODE STATUS: DNR/DNI  
#CONTACT: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. fenofibric acid ___ mg oral DAILY 
2. Rosuvastatin Calcium 10 mg PO QPM 
3. Finasteride 5 mg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 
8. Carvedilol 1.5625 mg PO BID 
9. Furosemide 80 mg PO BID 
10. Brovana (arformoterol) 15 mcg/2 mL inhalation BID 
11. budesonide 0.5 mg/2 mL inhalation DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. Acetaminophen 650 mg PO QHS 
14. Fluticasone Propionate NASAL 2 SPRY NU BID:PRN congestion 
 
Discharge Medications:
1.  Amiodarone 400 mg PO BID 
___ mg BID until ___, then 200 mg daily afterwards  
2.  Rosuvastatin Calcium 40 mg PO QPM  
3.  Acetaminophen 650 mg PO QHS  
4.  Brovana (arformoterol) 15 mcg/2 mL inhalation BID  
5.  Budesonide 0.5 mg/2 mL inhalation DAILY  
6.  Carvedilol 1.5625 mg PO BID  
7.  fenofibric acid ___ mg oral DAILY  
8.  Finasteride 5 mg PO DAILY  
9.  Fluticasone Propionate NASAL 2 SPRY NU BID:PRN congestion  
10.  Levothyroxine Sodium 50 mcg PO DAILY  
11.  Omeprazole 20 mg PO DAILY  
12.  Tamsulosin 0.4 mg PO QHS  
13.  Vitamin D 1000 UNIT PO DAILY  
14. HELD- Furosemide 80 mg PO BID  This medication was held. Do 
not restart Furosemide until evaluated in rehab
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Syncope
-Ventricular fibrillation with likely cardiac arrest requiring 
defibrillation from implanted ___
-Subgaleal hematoma
-Non ST segment myocardial infarction
-Coronary artery disease with prior bypass graft surgery
-Rhabdomyolysis
-Aortic stenosis
-Chronic left ventricular systolic and diastolic heart failure
-Gastrointestinal bleeding
-Subgaleal hematoma
-Recent head trauma
-Atrial fibrillation, paroxysmal
-Chronic kidney disease, stage 4
-Benign prostatic hypertrophy
-Hypothyroidism
-Dyslipidemia
-Vitamin B12 deficiency
-History of falls
-Severe degenerative change of the bilateral shoulders.
-Moderate to severe degenerative change of the cervical, 
thoracic, and lumbar spine
-___ C1 spine fracture
-Chronic obstructive pulmonary disease
-Alzheimer's dementia
-Leukocytosis
-Anemia
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were brought to the hospital after falling in your home. You 
had a large bruise from your fall. You had scans that showed an 
old neck fracture that is not causing you problems, and the 
orthopedic surgeons saw you and decided there was nothing to do. 


Your labs showed your heart was stressed. There was no reason to 
do a procedure. We looked at your defibrillator, and it showed 
your heart was in an abnormal rhythm the night before you were 
found which caused your fall, and that your received a shock to 
start your heart.

What happened to you during your hospital stay?
- Our electrophysiology team (special cardiologists) evaluated 
your pacemaker and defibrillator and adjusted the settings.
- We changed your medications (see below).

What should you do when you leave the hospital?
- You should continue taking all your medications as prescribed.
- Make sure to keep all your doctors ___.

NEW MEDICATIONS:
Amiodarone 400mg twice a day for 1 week, then 200mg daily 
thereafter

CHANGED MEDICATIONS:
We increased your Crestor from 10mg to 40 mg daily

STOPPED MEDICATIONS:
We stopped your isosorbide 

It was a pleasure taking care of you.
- Your ___ team
 
Followup Instructions:
___